US06420426B1
A suspension of [2-(4-bromo-2-fluoro-benzylcarbamoyl)-5-fluoro-4-morpholin-4-yl-phenoxy]-acetic acid ethyl ester (0.8 g, 1.73 mmol) in ethanol (9 mL) was treated with aq 2 N NaOH (5.0 mL, 10.4 mmol). After stirring for 30 min, the reaction was concentrated in vacuo until most of the ethanol was removed. The mixture was acidified to pH 3 with aq 2 N HCl, extrated with ethyl acetate, and washed with saturated NaCl. The organic layer was dried over MgSO4, filtered and concentrated to give [2-(4-bromo-2-fluoro-benzylcarbamoyl)-5-fluoro-4-morpholin-4-yl-phenoxy]-acetic acid (0.7 g, 93%) as a white crystalline solid: mp 180° C.; Rf 0.17 (20% methanol in dichloromethane); 1H NMR (DMSO-d6 300 MHz) δ 9.21 (t, J=5.4 Hz, 1H), 8.17 (s, 1H), 8.09 (dd, J1=8.1 Hz, J2=2.4 Hz, 1H), 7.78 (d, J=7.5 Hz, 1H), 7.65-7.52 (m, 2H), 7.13 (d, J=13.8 Hz, 1H), 4.85 (s, 2H), 4.62 (d, J=6 Hz, 2H), 3.71 (t, J=4.7 Hz, 4H), 2.91 (t, J=4.8 Hz, 4H). Anal. calcd for C20H20FN3O7: C, 55.43; H, 4.65; N, 9.70. Found C, 55.49; H, 4.68; N, 9.60.

reactant | [2-(4-bromo-2-fluoro-benzylcarbamoyl)-5-fluoro-4-morpholin-4-yl-phenoxy]-acetic acid ethyl ester | 1.73 mmol, 0.8 g | C(C)OC(COC1=C(C=C(C(=C1)F)N1CCOCC1)C(NCC1=C(C=C(C=C1)Br)F)=O)=O | C22H23BrF2N2O5
reactant | NaOH | 10.4 mmol, 2 N, 5.0 mL | [OH-].[Na+]
solvent | ethanol | 9 mL | C(C)O | C2H6O
product | [2-(4-bromo-2-fluoro-benzylcarbamoyl)-5-fluoro-4-morpholin-4-yl-phenoxy]-acetic acid | 0.7 g, 93% | BrC1=CC(=C(CNC(=O)C2=C(OCC(=O)O)C=C(C(=C2)N2CCOCC2)F)C=C1)F | C20H19BrF2N2O5
